US05665718
2.55 g (13.5 mmol) of 1-pyrrolidine-acetic acid were dissolved in 20 ml of N,N-dimethylformamide and treated portionwise with 2.6 g (15.9 mmol) of 1,1'-carbonyldiimidazole. After stirring for 45 minutes 3.9 g (12.3 mmol) of (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H- azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° overnight. 0.2 g of p-toluenesulphonic acid was added and the mixture was stirred at 90° for a further 4 hours. The reaction mixture was concentrated. By chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 and recrystallization from ethyl acetate and hexane there were obtained 1.6 g (32%) of (S)-8-chloro-12,12a-dihydro-1-[5-(pyrrolidin-1-ylmethyl)-1,2,4-oxadiazol-3-yl]-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 117°-120°, which was converted into the hydrochloride.

reactant | 1-pyrrolidine-acetic acid | 13.5 mmol, 2.55 g | N1(CCCC1)CC(=O)O | C6H11NO2
reactant | 1,1'-carbonyldiimidazole | 15.9 mmol, 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H- azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 12.3 mmol, 3.9 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CC1)=O | C14H12ClN5O2
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-12,12a-dihydro-1-[5-(pyrrolidin-1-ylmethyl)-1,2,4-oxadiazol-3-yl]-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.6 g, 32% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN3CCCC3)CC1)=O | C20H19ClN6O2
